US05182290
A mixture of 3-Amino-quinoxalin-2,4-diol mono-hydrochloride (424 mg, 2 mmol) and m-Methoxybenzoic anhydride (571 mg, 2 mmol) in dry pyridine (5 mL) was kept at room temperature for 16 h. The reaction mixture was poured onto ice water and the product was collected to afford 3-(3-Methoxybenzamido)-quinoxalin-2,4-diol as a cream colored solid.

reactant | 3-Amino-quinoxalin-2,4-diol mono-hydrochloride | 2 mmol, 424 mg | Cl.NC1C(=NC2=CC=CC=C2N1O)O
reactant | m-Methoxybenzoic anhydride | 2 mmol, 571 mg | COC=1C=C(C(=O)OC(C2=CC(=CC=C2)OC)=O)C=CC1 | C16H14O5
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 3-(3-Methoxybenzamido)-quinoxalin-2,4-diol | COC=1C=C(C(=O)NC2C(=NC3=CC=CC=C3N2O)O)C=CC1 | C16H15N3O4
